US04472304
In a similar manner to that described above, N-{3-[N-(3-aminopropyl)-N-methylamino]propyl}-p-cyanobenzylamine trihydrochloride (81% yeild) and N-{3-[N-(3-aminopropyl)-N-metylamino]propyl}-2-(p-chlorophenyl)ethylamine trihydrochloride (51% yield) were obtained from p-cyanobenzaldehyde and p-chlorophenylacetaldehyde, respectively. The physicohemical properties of these compounds were as shown in Table 8.

reactant | N-{3-[N-(3-aminopropyl)-N-methylamino]propyl}-p-cyanobenzylamine trihydrochloride | Cl.Cl.Cl.NCCCN(C)CCCNCC1=CC=C(C=C1)C#N
reactant | p-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | p-chlorophenylacetaldehyde | ClC1=CC=C(C=C1)CC=O | C8H7ClO
product | N-{3-[N-(3-aminopropyl)-N-metylamino]propyl}-2-(p-chlorophenyl)ethylamine trihydrochloride | 51% yield | Cl.Cl.Cl.NCCCN(C)CCCNCCC1=CC=C(C=C1)Cl | InChI=1S/C15H26ClN3.3ClH/c1-19(12-2-9-17)13-3-10-18-11-8-14-4-6-15(16)7-5-14;;;/h4-7,18H,2-3,8-13,17H2,1H3;3*1H
